US07244725B2
N-((1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-{[(4S)-6-iodo-3,4-dihydro-2H-chromen-4-yl]amino}propyl)-2-hydroxy-2-methylpropanamide
(2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[(4S)-6-iodo-3,4-dihydro-2H-chromen-4-yl]amino}butan-2-ol (1 equiv) was combined with 2-methylacetic acid, (1.25 equiv), EDC (1.5 equiv) and HOBt (1.5 equiv) in DMF/DCM (1:1, 10 mL). The reaction mixture was treated with Et3N and stirred at ambient temperature for 6 h. HPLC determined that the amine had been consumed by this time, and the reaction mixture was poured onto EtOAc and washed with 1M HCl, then the organics were dried over MgSO4 and concentrated to give an oil which was purified by reverse phase preparative HPLC. HRMS (ESI+) calcd for C23H27F2IN2O4 m/z 561.1063 (M+H)+. Found 561.1047.

reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[(4S)-6-iodo-3,4-dihydro-2H-chromen-4-yl]amino}butan-2-ol | 1 equiv | N[C@H]([C@@H](CN[C@H]1CCOC2=CC=C(C=C12)I)O)CC1=CC(=CC(=C1)F)F | C19H21F2IN2O2
reactant | 2-methylacetic acid | 1.25 equiv | CCC(=O)O | C3H6O2
reactant | EDC | 1.5 equiv
reactant | HOBt | 1.5 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DMF DCM | 10 mL | CN(C)C=O.C(Cl)Cl
solvent | Et3N | CCN(CC)CC | C6H15N
product | N-((1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-{[(4S)-6-iodo-3,4-dihydro-2H-chromen-4-yl]amino}propyl)-2-hydroxy-2-methylpropanamide | FC=1C=C(C[C@@H]([C@@H](CN[C@H]2CCOC3=CC=C(C=C23)I)O)NC(C(C)(C)O)=O)C=C(C1)F | C23H27F2IN2O4
